US05008263
(a) 7,8-Dichloro-2-(2,2-dimethoxyethylamino)-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H[1,5]benzodiazepine
A mixture 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione (1.36 g, 3.0 mmol), aminoacetaldehyde dimethyl acetal (630 mg, 6.0 mmol) and red mercuric oxide (650 mg, 3.0 mmol) in n-butanol (15 ml) was heated at reflux for 2.5 hours. The mixture was cooled, diluted with methanol (50 ml) and filtered through Hyflo filter aid. The solvents were removed under reduced pressure to give a foam, which was suspended in pentane and sonicated for 5 minutes. The pentane was removed in vacuo to give the title compound, 1.10 g (70%).

reactant | 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione | 3.0 mmol, 1.36 g | ClC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=S)C=C1Cl | C22H15Cl2N5S
reactant | aminoacetaldehyde dimethyl acetal | 6.0 mmol, 630 mg | COC(CN)OC | C4H11NO2
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
solvent | methanol | 50 ml | CO | CH4O
solvent | pentane | CCCCC | C5H12
product | 7,8-Dichloro-2-(2,2-dimethoxyethylamino)-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H[1,5]benzodiazepine | ClC1=CC2=C(N=C(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)NCC(OC)OC)C=C1Cl | C26H24Cl2N6O2
